US06884907B2
To a solution of 3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropanoic acid (9.41 g, 24.16 mmol), Meldrum's acid (3.84 g, 26.58 mmol), and DMAP (3.54 g, 29.0 mmol) in dichloromethane (125 mL) was dropwise added a solution of DCC (5.5 g, 26.6 mmol) in dichloromethane (25 mL) via addition funnel over a period of 1 h at 0° C. The mixture was left in the refrigerator overnight. DCU was filtered off and the filtrate was washed with 5% KHSO4 (3 times) and brine and dried over MgSO4 for 4 h in the refrigerator. The drying agent was removed by filtration and acetic acid (16 mL) was added to the filtrate. The mixture was again cooled at 0° C. and sodium borohydride (2.3 g, 60.4 mmol) was added in small portions while stirring over 1 h. The reaction mixture was left overnight in the refrigerator. The next day, the solution was washed 3 times with brine and 2 times with water. The organic layer was concentrated in vacuo and the crude material was recrystallized from EtOAc-hexanes mixture to give 8.08 g of N-benzyloxy-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-N-(2,4,6-trimethoxybenzyl)-propanamide as a white solid (67% yield).

reactant | 3-[benzyloxy(2,4,6-trimethoxybenzyl)amino]-3-oxopropanoic acid | 24.16 mmol, 9.41 g | C(C1=CC=CC=C1)ON(C(CC(=O)O)=O)CC1=C(C=C(C=C1OC)OC)OC | C20H23NO7
reactant | Meldrum's acid | 26.58 mmol, 3.84 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | DCC | 26.6 mmol, 5.5 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium borohydride | 60.4 mmol, 2.3 g | [BH4-].[Na+]
catalyst | DMAP | 29.0 mmol, 3.54 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-benzyloxy-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-N-(2,4,6-trimethoxybenzyl)-propanamide | 8.08 g, 67% yield | C(C1=CC=CC=C1)ON(C(CCC1C(OC(OC1=O)(C)C)=O)=O)CC1=C(C=C(C=C1OC)OC)OC | C26H31NO9
